*
* Changes for LTspice
* The original "Pulse_rising" and "Pulse_falling" subcircuits have been 
* disabled. * I have replaced them with my own LTspice specific versions.
*

* PSpice Model Editor - Version 10.3.0

*$
* source NCP2820

.subckt NCP2820 INN INP OUTM OUTP PGND VP /SD GND PVP
X_U3         CURRENT_BREAK N182659  $G_DPWR $G_DGND INV
R_VAR_R1_R15         0 VAR_R1_N34914370  0.2meg  
X_VAR_R1_Gain_control_S5    VAR_R1_Gain_control_3 0 VAR_R1_N3491449
+  VAR_R1_Gain_control_N3545319 Gain_control_VAR_R1_Gain_control_S5 
V_VAR_R1_Gain_control_V3         VAR_R1_Gain_control_N3319121 0 10Vdc
X_VAR_R1_Gain_control_U72         SHT_DWN VAR_R1_Gain_control_/RISE
+  VAR_R1_Gain_control_/FALL VAR_R1_Gain_control_1 $G_DPWR $G_DGND AND3
I_VAR_R1_Gain_control_I5         VAR_R1_Gain_control_N3568910 0 DC 20mAdc  
X_VAR_R1_Gain_control_U59         SHT_DWN VAR_R1_Gain_control_FALL
+  PULSE_FALLING PARAMS:  WIDTH=5ms
X_VAR_R1_Gain_control_U65         VAR_R1_Gain_control_1
+  VAR_R1_Gain_control_N3565039  $G_DPWR $G_DGND INV
X_VAR_R1_Gain_control_U73         VAR_R1_Gain_control_N35460122
+  VAR_R1_Gain_control_/FALL VAR_R1_Gain_control_2  $G_DPWR $G_DGND AND2
X_VAR_R1_Gain_control_U60         SHT_DWN VAR_R1_Gain_control_RISE PULSE_RISING
+  PARAMS:  WIDTH=5ms
C_VAR_R1_Gain_control_C3         0 VAR_R1_N3491449  10u IC=0 
X_VAR_R1_Gain_control_U61         SHT_DWN VAR_R1_Gain_control_RISE
+  VAR_R1_Gain_control_N3545992  $G_DPWR $G_DGND AND2
X_VAR_R1_Gain_control_U74         VAR_R1_Gain_control_/SHT_DWN
+  VAR_R1_Gain_control_/RISE VAR_R1_Gain_control_FALL VAR_R1_Gain_control_3
+  $G_DPWR $G_DGND AND3
X_VAR_R1_Gain_control_S3    VAR_R1_Gain_control_2 0 VAR_R1_N3491449 0
+  Gain_control_VAR_R1_Gain_control_S3 
X_VAR_R1_Gain_control_U58         VAR_R1_Gain_control_RISE
+  VAR_R1_Gain_control_/RISE  $G_DPWR $G_DGND INV
X_VAR_R1_Gain_control_S7    VAR_R1_Gain_control_N3565337 0
+  VAR_R1_Gain_control_N3545319 0 Gain_control_VAR_R1_Gain_control_S7 
X_VAR_R1_Gain_control_U62         VAR_R1_Gain_control_/SHT_DWN
+  VAR_R1_Gain_control_/RISE VAR_R1_Gain_control_N3546028  $G_DPWR $G_DGND AND2
X_VAR_R1_Gain_control_M1         VAR_R1_Gain_control_N3545311
+  VAR_R1_Gain_control_N3568910 VAR_R1_Gain_control_N3319121 BSS84/ZTX 
X_VAR_R1_Gain_control_M2         VAR_R1_Gain_control_N3568910
+  VAR_R1_Gain_control_N3568910 VAR_R1_Gain_control_N3319121 BSS84/ZTX 
X_VAR_R1_Gain_control_S4    VAR_R1_Gain_control_1 0
+  VAR_R1_Gain_control_N3545311 VAR_R1_N3491449
+  Gain_control_VAR_R1_Gain_control_S4 
X_VAR_R1_Gain_control_U63         VAR_R1_Gain_control_N3545992
+  VAR_R1_Gain_control_N3546028 VAR_R1_Gain_control_N35460122 $G_DPWR $G_DGND OR2
X_VAR_R1_Gain_control_U57         SHT_DWN VAR_R1_Gain_control_/SHT_DWN  $G_DPWR
+  $G_DGND INV
X_VAR_R1_Gain_control_U66         VAR_R1_Gain_control_3
+  VAR_R1_Gain_control_N3565337  $G_DPWR $G_DGND INV
I_VAR_R1_Gain_control_I4         VAR_R1_Gain_control_N3545319 0 DC 20mAdc  
X_VAR_R1_Gain_control_U64         VAR_R1_Gain_control_FALL
+  VAR_R1_Gain_control_/FALL  $G_DPWR $G_DGND INV
X_VAR_R1_Gain_control_S6    VAR_R1_Gain_control_N3565039 0
+  VAR_R1_Gain_control_N3545311 0 Gain_control_VAR_R1_Gain_control_S6 
X_VAR_R1_X1         VAR_R1_N3491449 0 VAR_R1_N34914370 INN ZX2_N ZX
E_U9         ZX2_N 0 VALUE {LIMIT(V(GND,INN)*1E5,-5V,+5V)} 
R_U9 GND INN 1G

X_U5         MOSL N3615407  $G_DPWR $G_DGND INV
X_hysteresis_U30         hysteresis_N3265617 hysteresis_N3265623  $G_DPWR
+  $G_DGND INV
X_hysteresis_U31         hysteresis_N3265623 SHT_DWN  $G_DPWR $G_DGND INV
E_hysteresis_E2         hysteresis_N3265617 0 VALUE { if ( V(/SD, 0)<0.4,0,if(
+  V(/SD, 0)>1.2,V(VP),0.9) ) }
X_D9         GND OUTP D1N4500 
X_U4         N182659 OUTR MOSR_INT $G_DPWR $G_DGND OR2
V_V9         N3312364 GND  
+PULSE 0 5 0 1n 1n 2u 4u
X_U2         OUTL N182659 MOSL_INT $G_DPWR $G_DGND OR2
X_S3    N3609927 GND PVP OUTP NCP2820_S3 
X_S2    MOSL GND N3265283 GND NCP2820_S2 
E_E9         MOSR GND VALUE { if ( V(MOSR_INT, GND)<0.4,0,if( V(MOSR_INT,
+  GND)>1.2,V(VP),0.9) ) }
C_C3         GND VRAMP  4p IC=0 
E_U8         ZX2_P 0 VALUE {LIMIT(V(GND,INP)*1E5,-5V,+5V)} 
R_U8 GND INP 1G

X_D8         OUTP PVP D1N4500 
E_E6         N3633097 GND VALUE { 0.34*V(VP) }
E_E8         MOSL GND VALUE { if ( V(MOSL_INT, GND)<0.4,0,if( V(MOSL_INT,
+  GND)>1.2,V(VP),0.9) ) }
E_E5         VRAMP N3338568 VALUE { 0.08*V(VP) }
R_Rf2         INN ZX2_N  222.5k  
X_D7         GND N3265283 D1N4500 
E_E4         CURRENT_BREAK GND VALUE { IF(V(N3287729, N3287823)>0.1u,V(VP),0) }
X_F1    N3265283 OUTM PVP CURRENT_SENSE NCP2820_F1 
R_R14         GND CURRENT_SENSE  1  
R_Rf1         INP ZX2_P  222.5k  
G_G3         PVP GND VALUE { if(V(SHT_DWN, GND)<=0.1,1u,2.5m) }
X_D6         N3265283 PVP D1N4500 
E_ABM2         N3648951 0 VALUE { V(ZX2_N)  
+ +V(N3647451)    }
G_G1         PVP N3313902 VALUE { 1.2*1e-6*V(VP) }
E_ABM1         N3401620 0 VALUE { V(ZX2_P)  
+ +V(N3633097)    }
X_S1    N3615407 GND PVP N3265283 NCP2820_S1 
X_S4    MOSR GND OUTP GND NCP2820_S4 
R_R15         GND /SD  300K  
E_ABS1         N3287823 0 VALUE {ABS(V(CURRENT_SENSE))}
V_V6         N3287729 GND 1.5
E_E3         OUTR GND VALUE { IF(V(N3648951, VRAMP)>1u,V(VP),0) }
E_E7         N3647451 GND VALUE { 0.34*V(VP) }
X_U6         MOSR N3609927  $G_DPWR $G_DGND INV
R_VAR_R_R15         0 VAR_R_N34914370  0.2meg  
X_VAR_R_Gain_control_S5    VAR_R_Gain_control_3 0 VAR_R_N3491449
+  VAR_R_Gain_control_N3545319 Gain_control_VAR_R_Gain_control_S5 
V_VAR_R_Gain_control_V3         VAR_R_Gain_control_N3319121 0 10Vdc
X_VAR_R_Gain_control_U72         SHT_DWN VAR_R_Gain_control_/RISE
+  VAR_R_Gain_control_/FALL VAR_R_Gain_control_1 $G_DPWR $G_DGND AND3
I_VAR_R_Gain_control_I5         VAR_R_Gain_control_N3568910 0 DC 20mAdc  
X_VAR_R_Gain_control_U59         SHT_DWN VAR_R_Gain_control_FALL PULSE_FALLING
+  PARAMS:  WIDTH=5ms
X_VAR_R_Gain_control_U65         VAR_R_Gain_control_1
+  VAR_R_Gain_control_N3565039  $G_DPWR $G_DGND INV
X_VAR_R_Gain_control_U73         VAR_R_Gain_control_N35460122
+  VAR_R_Gain_control_/FALL VAR_R_Gain_control_2  $G_DPWR $G_DGND AND2
X_VAR_R_Gain_control_U60         SHT_DWN VAR_R_Gain_control_RISE PULSE_RISING
+  PARAMS:  WIDTH=5ms
C_VAR_R_Gain_control_C3         0 VAR_R_N3491449  10u IC=0 
X_VAR_R_Gain_control_U61         SHT_DWN VAR_R_Gain_control_RISE
+  VAR_R_Gain_control_N3545992  $G_DPWR $G_DGND AND2
X_VAR_R_Gain_control_U74         VAR_R_Gain_control_/SHT_DWN
+  VAR_R_Gain_control_/RISE VAR_R_Gain_control_FALL VAR_R_Gain_control_3 $G_DPWR
+  $G_DGND AND3
X_VAR_R_Gain_control_S3    VAR_R_Gain_control_2 0 VAR_R_N3491449 0
+  Gain_control_VAR_R_Gain_control_S3 
X_VAR_R_Gain_control_U58         VAR_R_Gain_control_RISE
+  VAR_R_Gain_control_/RISE  $G_DPWR $G_DGND INV
X_VAR_R_Gain_control_S7    VAR_R_Gain_control_N3565337 0
+  VAR_R_Gain_control_N3545319 0 Gain_control_VAR_R_Gain_control_S7 
X_VAR_R_Gain_control_U62         VAR_R_Gain_control_/SHT_DWN
+  VAR_R_Gain_control_/RISE VAR_R_Gain_control_N3546028  $G_DPWR $G_DGND AND2
X_VAR_R_Gain_control_M1         VAR_R_Gain_control_N3545311
+  VAR_R_Gain_control_N3568910 VAR_R_Gain_control_N3319121 BSS84/ZTX 
X_VAR_R_Gain_control_M2         VAR_R_Gain_control_N3568910
+  VAR_R_Gain_control_N3568910 VAR_R_Gain_control_N3319121 BSS84/ZTX 
X_VAR_R_Gain_control_S4    VAR_R_Gain_control_1 0 VAR_R_Gain_control_N3545311
+  VAR_R_N3491449 Gain_control_VAR_R_Gain_control_S4 
X_VAR_R_Gain_control_U63         VAR_R_Gain_control_N3545992
+  VAR_R_Gain_control_N3546028 VAR_R_Gain_control_N35460122 $G_DPWR $G_DGND OR2
X_VAR_R_Gain_control_U57         SHT_DWN VAR_R_Gain_control_/SHT_DWN  $G_DPWR
+  $G_DGND INV
X_VAR_R_Gain_control_U66         VAR_R_Gain_control_3
+  VAR_R_Gain_control_N3565337  $G_DPWR $G_DGND INV
I_VAR_R_Gain_control_I4         VAR_R_Gain_control_N3545319 0 DC 20mAdc  
X_VAR_R_Gain_control_U64         VAR_R_Gain_control_FALL
+  VAR_R_Gain_control_/FALL  $G_DPWR $G_DGND INV
X_VAR_R_Gain_control_S6    VAR_R_Gain_control_N3565039 0
+  VAR_R_Gain_control_N3545311 0 Gain_control_VAR_R_Gain_control_S6 
X_VAR_R_X1         VAR_R_N3491449 0 VAR_R_N34914370 INP ZX2_P ZX
X_integrateur_S5    integrateur_N1206063 0 N3313902 0
+  integrateur_integrateur_S5 
X_integrateur_S6    N3312364 0 0 N3316268 integrateur_integrateur_S6 
X_integrateur_S3    integrateur_N1206063 0 N3338568 N3316268
+  integrateur_integrateur_S3 
X_integrateur_U1         N3312364 integrateur_N1206063  $G_DPWR $G_DGND INV
X_integrateur_S2    N3312364 0 N3313902 N3338568 integrateur_integrateur_S2 
G_G2         N3316268 GND VALUE { 1.2*1e-6*V(VP) }
E_E2         OUTL GND VALUE { IF(V(N3401620, VRAMP)>1u,V(VP),0) }

.ENDS NCP2820
*$

*****************************************
* Creation: Thierry SUTTO               *
*     Date: 18 SEP 2003                 *
* Based on: n/a                         *
*****************************************
* The pulse is generated when a falling *
* edge is detected on IN pin.           *
* The width of the pulse is an          *
* adjustable param.                     *
*****************************************

.SUBCKT Pulse_Falling_ IN Pulse params: Width=100ns

X_U2         N383922 N383908 PULSE  $G_DPWR $G_DGND AND2
X_U1         N383828 N383908 $G_DPWR $G_DGND DELAY PARAMS: DELAY=30ns TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U4         IN N383828 $G_DPWR $G_DGND DELAY PARAMS: DELAY={Width} TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U5         N383828 IN N383922 $G_DPWR $G_DGND XOR

.ENDS
*$

*****************************************
* Creation: Thierry SUTTO               *
*     Date: 18 SEP 2003                 *
* Based on: n/a                         *
*****************************************
* The pulse is generated when a rising  *
* edge is detected on IN pin.           *
* The width of the pulse is an          *
* adjustable param.                     *
*****************************************

.SUBCKT Pulse_Rising_ In Pulse params: Width=100ns

X_U2         N200223 IN N385549 $G_DPWR $G_DGND XOR
X_U3         N385493 IN PULSE  $G_DPWR $G_DGND AND2
X_U4         N385549 N385493 $G_DPWR $G_DGND DELAY PARAMS: DELAY=5n TOL=10 IO_LEVEL=0 MNTYMXDLY=0
X_U1         IN N200223 $G_DPWR $G_DGND DELAY PARAMS: DELAY={Width} TOL=10 IO_LEVEL=0 MNTYMXDLY=0

.ENDS
*$

.subckt Gain_control_VAR_R1_Gain_control_S5 1 2 3 4  
S_VAR_R1_Gain_control_S5         3 4 1 2 _VAR_R1_Gain_control_S5
RS_VAR_R1_Gain_control_S5         1 2 1G
.MODEL         _VAR_R1_Gain_control_S5 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R1_Gain_control_S5
*$

.subckt Gain_control_VAR_R1_Gain_control_S3 1 2 3 4  
S_VAR_R1_Gain_control_S3         3 4 1 2 _VAR_R1_Gain_control_S3
RS_VAR_R1_Gain_control_S3         1 2 1G
.MODEL         _VAR_R1_Gain_control_S3 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R1_Gain_control_S3
*$

.subckt Gain_control_VAR_R1_Gain_control_S7 1 2 3 4  
S_VAR_R1_Gain_control_S7         3 4 1 2 _VAR_R1_Gain_control_S7
RS_VAR_R1_Gain_control_S7         1 2 1G
.MODEL         _VAR_R1_Gain_control_S7 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R1_Gain_control_S7
*$

.subckt Gain_control_VAR_R1_Gain_control_S4 1 2 3 4  
S_VAR_R1_Gain_control_S4         3 4 1 2 _VAR_R1_Gain_control_S4
RS_VAR_R1_Gain_control_S4         1 2 1G
.MODEL         _VAR_R1_Gain_control_S4 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R1_Gain_control_S4
*$

.subckt Gain_control_VAR_R1_Gain_control_S6 1 2 3 4  
S_VAR_R1_Gain_control_S6         3 4 1 2 _VAR_R1_Gain_control_S6
RS_VAR_R1_Gain_control_S6         1 2 1G
.MODEL         _VAR_R1_Gain_control_S6 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R1_Gain_control_S6
*$

.subckt NCP2820_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e7 Ron=0.3 Voff=0.1V Von=2.0V
.ends NCP2820_S3
*$

.subckt NCP2820_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e7 Ron=0.3 Voff=0.1V Von=2.0V
.ends NCP2820_S2
*$

.subckt NCP2820_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends NCP2820_F1
*$

.subckt NCP2820_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e7 Ron=0.3 Voff=0.1V Von=2.0V
.ends NCP2820_S1
*$

.subckt NCP2820_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e7 Ron=0.3 Voff=0.1V Von=2.0V
.ends NCP2820_S4
*$

.subckt Gain_control_VAR_R_Gain_control_S5 1 2 3 4  
S_VAR_R_Gain_control_S5         3 4 1 2 _VAR_R_Gain_control_S5
RS_VAR_R_Gain_control_S5         1 2 1G
.MODEL         _VAR_R_Gain_control_S5 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R_Gain_control_S5
*$

.subckt Gain_control_VAR_R_Gain_control_S3 1 2 3 4  
S_VAR_R_Gain_control_S3         3 4 1 2 _VAR_R_Gain_control_S3
RS_VAR_R_Gain_control_S3         1 2 1G
.MODEL         _VAR_R_Gain_control_S3 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R_Gain_control_S3
*$

.subckt Gain_control_VAR_R_Gain_control_S7 1 2 3 4  
S_VAR_R_Gain_control_S7         3 4 1 2 _VAR_R_Gain_control_S7
RS_VAR_R_Gain_control_S7         1 2 1G
.MODEL         _VAR_R_Gain_control_S7 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R_Gain_control_S7
*$

.subckt Gain_control_VAR_R_Gain_control_S4 1 2 3 4  
S_VAR_R_Gain_control_S4         3 4 1 2 _VAR_R_Gain_control_S4
RS_VAR_R_Gain_control_S4         1 2 1G
.MODEL         _VAR_R_Gain_control_S4 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R_Gain_control_S4
*$

.subckt Gain_control_VAR_R_Gain_control_S6 1 2 3 4  
S_VAR_R_Gain_control_S6         3 4 1 2 _VAR_R_Gain_control_S6
RS_VAR_R_Gain_control_S6         1 2 1G
.MODEL         _VAR_R_Gain_control_S6 VSWITCH Roff=1e8 Ron=0.001 Voff=100mV
+  Von=3V
.ends Gain_control_VAR_R_Gain_control_S6
*$

.subckt integrateur_integrateur_S5 1 2 3 4  
S_integrateur_S5         3 4 1 2 _integrateur_S5
RS_integrateur_S5         1 2 1G
.MODEL         _integrateur_S5 VSWITCH Roff=1e8 Ron=0.1 Voff=0 Von=4
.ends integrateur_integrateur_S5
*$

.subckt integrateur_integrateur_S6 1 2 3 4  
S_integrateur_S6         3 4 1 2 _integrateur_S6
RS_integrateur_S6         1 2 1G
.MODEL         _integrateur_S6 VSWITCH Roff=1e8 Ron=0.1 Voff=0 Von=4
.ends integrateur_integrateur_S6
*$

.subckt integrateur_integrateur_S3 1 2 3 4  
S_integrateur_S3         3 4 1 2 _integrateur_S3
RS_integrateur_S3         1 2 1G
.MODEL         _integrateur_S3 VSWITCH Roff=1e8 Ron=0.1 Voff=0 Von=4
.ends integrateur_integrateur_S3
*$

.subckt integrateur_integrateur_S2 1 2 3 4  
S_integrateur_S2         3 4 1 2 _integrateur_S2
RS_integrateur_S2         1 2 1G
.MODEL         _integrateur_S2 VSWITCH Roff=1e8 Ron=0.1 Voff=0 Von=4
.ends integrateur_integrateur_S2
*$
