* ad534.sub
* Model from "analogspiceman"
*
.subckt ad534 X1 X2 SF Y1 Y2 V+ OUT Z1 Z2 V-
.param VS=15
Q1 N002 N002 SF 0 NPN
R2 SF V- 5.4k
R3 N008 V- 8k
Q2 N007 N002 N008 0 NPN
Q3 N012 N002 N013 0 NPN
R4 N013 V- 8k
R6 N012 N007 36.5k
R5 N006 N007 26k
R7 N011 N012 26k
Q4 N005 X1 N006 0 NPN
Q5 N010 X2 N011 0 NPN
R8 N019 V- 8k
Q8 N018 N002 N019 0 NPN
Q9 N022 N002 N023 0 NPN
R9 N023 V- 8k
R11 N022 N018 36.5k
R10 N017 N018 26k
R12 N021 N022 26k
Q10 N016 Y1 N017 0 NPN
Q11 N020 Y2 N021 0 NPN
R13 N027 V- 8k
Q16 N026 N002 N027 0 NPN
Q17 N030 N002 N031 0 NPN
R14 N031 V- 8k
R16 N030 N026 36.5k
R15 N025 N026 26k
R17 N029 N030 26k
Q18 N024 Z1 N025 0 NPN
Q19 N028 Z2 N029 0 NPN
Q6 N003 N003 N005 0 NPN
Q7 N003 N003 N010 0 NPN
Q12 N014 N010 N016 0 NPN
Q13 N015 N005 N016 0 NPN
Q14 N014 N005 N020 0 NPN
Q15 N015 N010 N020 0 NPN
R19 N024 V+ 4.5k
R18 N024 N015 1.5k
R21 N014 N028 1.5k
R1 0 N001 18k22
V1 N001 V- 7.3
R20 V+ N028 4.5k
G1 0 Out N015 N014 100
R22 Out 0 35
D2 N004 N009 DD
D3 V+ N004 DD
I1 0 N002 222µ
D4 N009 N003 DD
D1 Out 0 lim
.model NPN npn(Is=1f Bf=300 Xtb=1.5 Br=4 Cjc=1p Cje=2p 
+ Rb=80 Rc=0.4 Re=0.4 tr=250n)
.model DD D(Is=1e-13)
.model lim d(Vfwd={VS-2} Vrev={VS-2})
.ends ad534

