*
* Copyright (C) 1993 Harris Corp.
* All Rights Reserved
*
* HFA1100 Macro Model
* Rev. 8/11/93
*
* Subcircuit Call Order: +IN -IN Vcc Vee Out
*
.SUBCKT HFA1100           106 107 109 110 108 
ROUT2 111 108 5  
LOUT2 111 108 .55N  
COUT2 112 108 2.5PF  
ROUT3 102 112 .2  
CCNP 113 109 .475P  
DLINP 113 109 DL  
ILINP 109 113 1.25M  
QINP 113 114 115 QINP  
IINP 109 114 0.85M  
CINP 109 114 0.38P  
DINP 114 116 INDP  
RIN 106 116 250  
DINM 116 117 INDM  
CINM 117 110 0.38P  
IINM 117 110 0.833M  
QINM 118 117 115 QINM  
ILINM 118 110 1.60M  
DLINM 110 118 DL  
CCNM 118 110 .41P  
LOM 107 115 13N  
ROM 107 115 225  
COM 107 0 +1.00000000E-12  
INBC 107 0 -1.20000003E-05  
.MODEL DL D 
.MODEL INDP D IS=+3.60000006E-17 
.MODEL INDM D IS=+4.80000008E-17 
.MODEL QINP NPN IS=+2.00000003E-17 BF=+1.00000000E+02 
.MODEL QINM PNP IS=+4.00000006E-17 BF=+4.00000000E+01 
.MODEL DP D  IS=1E-14  N=+1.62284157E+00 
.MODEL DN D  IS=+1.04421054E-14    N=+1.62284157E+00 
.MODEL DV D  IS=+2.44905117E-16  N=.2 
.MODEL D1 D  IS=1E-9  N=1 
.MODEL D2 D  IS=1E-9  N=+7.49999989E-01 
.MODEL DX D  IS=1E-20  N=+2.00000000E+01 
VP 116 120 +4.45999979E-03  
VN 115 121 0  
I1 100 0 +2.04421054E-08  
FA 115 0 VN -4.23387106E-02  
DP 120 100 DP  
DN 121 100 DN  
FP 104 0 VP  +1.21318229E+03  
FN 0 104 VN  +1.16181771E+03  
GC 0 104 100 0 +9.20141571E-08  
GPP 104 0 109 0 +3.26478544E-07  
GPN 104 0 110 0 +1.83592377E-07  
IRX 0 104 +7.67432923E-07  
RT 104 0 1.0  
ECP 122 0 104 0 1.0  
RCP 122 123 +9.94687500E+01  
LCP 123 124 +2.47363288E-09  
CCP 124 125 1E-12  
RXP 124 125 1E8  
VCP 125 0 0.0  
FCZ 0 126 VCP  1.0  
RCZ 126 127 +2.15067568E+00  
LCZ 127 128 +1.15640977E-10  
CCZ 128 0 1E-12  
RXZ 128 0 1E8  
EP1 129 0 126 0 1.0  
RP1 129 130 +7.44974348E-01  
RZ1 130 131 -1.32666665E-01  
CP1 131 0 1E-10  
EP2 132 0 130 0 1.0  
RP2 132 133 +4.08529094E-01  
RZ2 133 134 -1.13714284E-01  
CP2 134 0 1E-10  
EP3 135 0 133 0 1.0  
RP3 135 136 +1.99000004E-02  
CP3 136 0 1E-10  
GPZ 0 101 136 0 1.0  
R2 101 0 +1.44269504E+06  
CC 101 102 +1.00000002E-14  
GOL 102 0 101 0 +5.48723722E-01  
RD 102 0 +2.38770000E+02  
DH 102 105 DV  
DL 137 102 DV  
*ECC 105 0 POLY 1  109 0 -1.70000000E+00  1.0  
*EEE 137 0 POLY 1  110 0 +1.80000000E+00  1.0  
ECC 105 0 POLY(1)  (109,0) -1.70000000E+00  1.0  
EEE 137 0 POLY(1)  (110,0) +1.80000000E+00  1.0  
IH 109 0 +1.94050004E-02  
IL 0 110 +1.94050004E-02  
GPS 119 0 102 111 +8.13008118E-01  
DPH 109 119 DX  
DPL 119 110 DX  
D1 102 138 D1  
D2 138 102 D2  
*EX1 138 139 POLY 2  102 139 111 139 0.0   -2.43783081E+00   +3.42414624E+00  
*EX2 139 0 POLY 2  109 0 110 0 0 0.5 0.5  
EX1 138 139 POLY(2) (102,139) (111,139) 0.0 -2.43783081E+00 +3.42414624E+00
EX2 139 0 POLY(2) (109,0) (110,0) 0 0.5 0.5
RO 102 111 +1.23000000E+00  
CCNS 119 0 1PF  
.ENDS HFA1100  
